US04248746
Finely divided vinyl acetate-ethyl acrylate copolymer is prepared exactly as described in Example 1 except that in place of vinyl acetate there is used a 60:40 mixture of vinyl acetate and ethyl acrylate. The postheating time is extended to 2-1/2 hours at 80° C. followed by distillation to remove 66.5 parts of a mixture of unreacted monomer and solvent. The resulting dispersion contains 53.6% solids and has a particle size of 0.43 micron. The polymer has a reduced specific viscosity of 1.24 which indicates a molecular weight above 100,000 and has a glass transition temperature of 0° C.

reactant | vinyl acetate | C(C)(=O)OC=C | C4H6O2
reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
product | vinyl acetate ethyl acrylate | C(C)(=O)OC=C.C(C=C)(=O)OCC | InChI=1S/C5H8O2.C4H6O2/c1-3-5(6)7-4-2;1-3-6-4(2)5/h3H,1,4H2,2H3;3H,1H2,2H3
